US08030334B2
A flask is charged with 5-bromo-pyridin-3-ol (0.310 g, 1.78 mmol), potassium phosphate (0.982 g, 4.63 mmol) and acetone (10 mL), and morpholine-4-sulfonyl chloride (0.529 g, 2.85 mmol) is added dropwise at 0° C. The mixture is stirred at room temperature overnight. Saturated NaHCO3 in water (1 mL) is added and the mixture is concentrated in vacuo. The residue is purified on silica gel chromatography eluting with a 9:1 to 4:1 heptane-ethyl acetate gradient to give morpholine-4-sulfonic acid 5-bromo-pyridin-3-yl ester. MS (ESI) m/z 322.9 and 324.9 (M+H)+.

reactant | 5-bromo-pyridin-3-ol | 1.78 mmol, 0.310 g | BrC=1C=C(C=NC1)O | C5H4BrNO
reactant | potassium phosphate | 4.63 mmol, 0.982 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | morpholine-4-sulfonyl chloride | 2.85 mmol, 0.529 g | N1(CCOCC1)S(=O)(=O)Cl | C4H8ClNO3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | 1 mL | O | H2O
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | morpholine-4-sulfonic acid 5-bromo-pyridin-3-yl ester | BrC=1C=C(C=NC1)OS(=O)(=O)N1CCOCC1 | C9H11BrN2O4S
